### PR TITLE
[Merged by Bors] - feat: epsilon dense implies dense

### PR DESCRIPTION
**Pull request by WilliamCoram**
We follow BGR - Nonarchimedean analysis and introduce the definition of a subgroup being epsilon dense. Then prove this implies dense (Prop 1.1.4./2)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/EpsilonDense.lean [hunk 1]
```diff
@@ -0,0 +1,67 @@
...
+
+namespace SeminormedGroup
+
+open Metric
+
+/-- We say a subgroup `H` is `ε`-dense if for all `g : G` there exists a `h : H`, such that
+  `‖g⁻¹ * (h : G)‖ ≤ ε * ‖g‖`. -/
+@[to_additive /-- We say a subgroup `H` is `ε`-dense if for all `g : G` there exists a `h : H`,
+  such that `‖g⁻¹ * (h : G)‖ ≤ ε * ‖g‖`. -/]
+def epsilonDense (ε : ℝ) : Prop := ∀ g : G, ∃ h : H, ‖g⁻¹ * (h : G)‖ ≤ ε * ‖g‖
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/EpsilonDense.lean]: I'm skeptical that we actually need this as a definition. I looked through BGR a bit but I didn't see it used repeatedly (although I'm not an expert in non-archimedean analysis, so I may be wrong and may have missed it). If it's only ever used to prove the subsequent theorem, then we certainly don't need a separate definition.

File: Mathlib/Topology/MetricSpace/HausdorffDistance.lean [hunk 2]
```diff
@@ -689,6 +689,9 @@ theorem infDist_zero_of_mem_closure (hx : x ∈ closure s) : infDist x s = 0 :=
 theorem mem_closure_iff_infDist_zero (h : s.Nonempty) : x ∈ closure s ↔ infDist x s = 0 := by
   simp [mem_closure_iff_infEDist_zero, infDist, ENNReal.toReal_eq_zero_iff, infEDist_ne_top h]
 
+theorem closure_eq (h : s.Nonempty) : closure s = {x | Metric.infDist x s = 0} := by
+  grind [Metric.mem_closure_iff_infDist_zero]
```
Comment (j-loreaux) [inline Mathlib/Topology/MetricSpace/HausdorffDistance.lean]: `Metric.closure_eq` is too vague a name. Perhaps this:

```suggestion
theorem closure_eq_setOf_infDist (h : s.Nonempty) : closure s = {x | Metric.infDist x s = 0} := by
  grind [Metric.mem_closure_iff_infDist_zero]
```
At the same time, I'm not convinced that we need this at all.

File: Mathlib/Topology/Algebra/EpsilonDense.lean [hunk 3]
```diff
@@ -0,0 +1,67 @@
...
+
+@[to_additive]
+lemma epsilonDense_dist_eq_zero {ε : ℝ} (h1 : 0 < ε) (h2 : ε < 1)
+    (h : epsilonDense H ε) (g : G) : infDist g H = 0 := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/EpsilonDense.lean]: I would skip this theorem and prove directly `Dense (H : Set G)`

File: Mathlib/Topology/Algebra/EpsilonDense.lean [hunk 4]
```diff
@@ -0,0 +1,67 @@
+/-
+Copyright (c) 2026 William Coram. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: William Coram
+-/
+module
+
+public import Mathlib.Analysis.Normed.Group.Defs
+public import Mathlib.Algebra.Order.Star.Real
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/EpsilonDense.lean]: This seems an unlikely import to be required.

Comment (WilliamCoram) [reply Mathlib/Topology/Algebra/EpsilonDense.lean]: I will check later, I am guessing `min_imports` was doing its usual thing

File: Mathlib/Topology/Algebra/EpsilonDense.lean (hunk 1 above)
Comment (WilliamCoram) [reply Mathlib/Topology/Algebra/EpsilonDense.lean]: My use of this comes up in 5.2.1/2, the p-adic Weierstrass preparation theorem, which is what I am trying to upstream into Mathlib with my future PR's. 

I was under the impression that new definitions are only small technical debt? But if you think its better I can just explicitly replace `(h : epsilonDense H ε)` in the final theorem.

Comment (WilliamCoram) [reply Mathlib/Topology/Algebra/EpsilonDense.lean]: I do not recall if it was used anywhere else in the book though.

**Comment by WilliamCoram** [comment]
I have added a test foo lemma that does the following: 

- avoids epsilon dense def, and writes the hypothesis explicitly
- combines the `epsilonDense_dist_eq_zero` lemma into the Dense theorem
- avoids the use of my `closure_eq`. Note this is avoided via an ext, simp, grind. Personally, I think that lemma could be useful.

Let me know what you think, if you prefer the foo lemma I can delete everything else (and then probably move it into a better file)

File: Mathlib/Topology/Algebra/EpsilonDense.lean [hunk 5]
```diff
@@ -0,0 +1,91 @@
...
+    Dense (H : Set G) := by
+  simp [dense_iff_closure_eq, Metric.closure_eq, epsilonDense_dist_eq_zero H h1 h2 h]
+
+lemma foo (ε : ℝ) (h1 : 0 < ε) (h2 : ε < 1) (h : ∀ g : G, ∃ h : H, ‖g⁻¹ * (h : G)‖ ≤ ε * ‖g‖) :
+    Dense (H : Set G) := by
+  simp_rw [dense_iff_closure_eq]
+  suffices ∀ g : G, infDist g H = 0 by
+    ext x
+    simp [Metric.mem_closure_iff_infDist_zero]
+    grind
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/EpsilonDense.lean]: If you want, you can keep the `closure_eq_setOf_infDist` lemma, but this shows that you don't truly need it; you can avoid the `suffices` pretty easily.
```suggestion
  simp_rw [dense_iff_closure_eq, Set.eq_univ_iff_forall,
    mem_closure_iff_infDist_zero (s := (s : Set α)) (by simp)]
```
or if you want:
```suggestion
  simp only [dense_iff_closure_eq, Set.eq_univ_iff_forall, OneMemClass.coe_nonempty,
    mem_closure_iff_infDist_zero]
```

**Review by j-loreaux — COMMENTED** [review]
sure, I think the `foo` version is better.

File: Mathlib/Topology/Algebra/EpsilonDense.lean (hunk 5 above)
Comment (WilliamCoram) [reply Mathlib/Topology/Algebra/EpsilonDense.lean]: Ah, very nice! I agree that we probably do not need the lemma then

**Comment by WilliamCoram** [comment]
> sure, I think the `foo` version is better.

Thanks, I will work on reworking the PR tomorrow

**Comment by WilliamCoram** [comment]
After your suggestion that foo is better, I have generalised the statement to match the hypothesis in the `HausdorffDistance` file (e.g `PseudoMetricSpace` instead of SeminormedGroup) and placed it there. I have also replaced `∀ g : G, ∃ h : H, ‖g⁻¹ * (h : G)‖ ≤ ε * ‖g‖` with `∀ g : G, infDist g H ≤ ε * dist g 1`, this seems a better hypothesis and in practice we can use `Metric.infDist_lt_iff` to convert between the two.

File: Mathlib/Topology/MetricSpace/HausdorffDistance.lean [hunk 6]
```diff
@@ -713,6 +713,30 @@ theorem continuousAt_inv_infDist_pt (h : x ∉ closure s) :
 theorem infDist_image (hΦ : Isometry Φ) : infDist (Φ x) (Φ '' t) = infDist x t := by
   simp [infDist, infEDist_image hΦ]
 
+/-- Let `G` be a group with a left-invariant pseudometric. If a subgroup `H` is `ε`-dense for
+some `ε < 1`, that is `infDist g H ≤ ε * dist g 1` for every `g : G`, then `H` is
+dense. This is [BGR, Prop 1.1.4./2][bosch-guntzer-remmert]. -/
+@[to_additive]
+lemma _root_.Subgroup.dense_of_infDist_le {G : Type*} [Group G] [PseudoMetricSpace G]
+    [IsIsometricSMul G G] (H : Subgroup G) (ε : ℝ) (h1 : 0 < ε) (h2 : ε < 1)
+    (h : ∀ g : G, infDist g H ≤ ε * dist g 1) : Dense (H : Set G) := by
```
Comment (j-loreaux) [inline Mathlib/Topology/MetricSpace/HausdorffDistance.lean:722]: I think the generalization to `PseudoMetricSpace` is a red herring. This version is not more general than your original (which assumed `SeminormedGroup`) because a `SeminormedGroup G` doesn't imply `IsIsometricSMul G G` unless `G` is in fact a `NormedGroup`. Moreover, a metric group with a translation invariant distance can be given a norm in a natural way.

Comment (WilliamCoram) [reply Mathlib/Topology/MetricSpace/HausdorffDistance.lean:722]: I see, thanks for pointing out

Comment (WilliamCoram) [reply Mathlib/Topology/MetricSpace/HausdorffDistance.lean:722]: After some looking through Mathlib, what you said is false. As seen by the following
```
public import Mathlib.Analysis.Normed.Group.Uniform

example (T : Type*) [SeminormedGroup T] : IsIsometricSMul T T := 
  NormedGroup.to_isIsometricSMul 
```
which although is in the `NormedGroup` namespace, does in fact only require `SeminormedGroup`.

However, for the converse we would need to do something like the following (avoiding instance loops so a def): 
```
/-- A group with a left-invariant pseudometric is a seminormed group, with `‖x‖ = dist 1 x`. -/
@[to_additive]
abbrev SeminormedGroup.ofIsIsometricSMul (L : Type*) [Group L] [PseudoMetricSpace L]
    [IsIsometricSMul L L] : SeminormedGroup L where
  norm x := dist 1 x
  dist_eq a b := by rw [← dist_mul_left a 1 (a⁻¹ * b), mul_one, mul_inv_cancel_left]

example (L : Type*) [Group L] [PseudoMetricSpace L] [IsIsometricSMul L L] : SeminormedGroup L := by 
  letI := SeminormedGroup.ofIsIsometricSMul L
  infer_instance
```

Therefore, I would think the wanted mathlib version is `[PseudoMetricSpace L] [IsIsometricSMul L L]` as we can immediately apply the statement for `[SeminormedGroup]` 
```
lemma foo {G : Type*} [SeminormedGroup G] (H : Subgroup G) (ε : ℝ) (h1 : 0 < ε) (h2 : ε < 1)
    (h : ∀ g : G, infDist g H ≤ ε * dist g 1) : Dense (H : Set G) := by
  exact Subgroup.dense_of_infDist_le H ε h1 h2 h
```
where as a `[SeminormedGroup]` statement would need this ad-hoc patch, which I am not convinced is nice, if any one wanted to use this for just `PseudometricSpace`'s with no existing `SeminormedGroup` instance.

Comment (j-loreaux) [reply Mathlib/Topology/MetricSpace/HausdorffDistance.lean]: > which although is in the `NormedGroup` namespace, does in fact only require `SeminormedGroup`.

oops, that's my bad. I found that declaration before but didn't catch that the name didn't match the hypothesis.

In any case, the remainder of my claim still applies: a pseudo-metric group with `IsIsometricSMul` is a seminormed group. Sure, it's technically possible to construct something that doesn't actually have the `Norm` structure defined, but the point is that this would essentially never come up in practice. If you have a type where you *could* have a norm for free (i.e., without any additional choices to make) and hence make all the associated lemmas available, why wouldn't you? Note that you *can't* have some metric which would yield a norm via `dist 1 x`, and then install a completely unrelated norm (for diamond inheritance reasons).

So, this should go back to being about `SeminormedGroup`s.

**Comment by j-loreaux** [comment]
I think the import increase is okay given that it's only this file, not downstream ones.

bors merge
